### PR TITLE
Add Erdős Problem 305 (least denominators of Egyptian fractions), link the formal proof

### LINKED ISSUE #6309: Erdős Problem 305
### What is the Erdős problem?

https://www.erdosproblems.com/305

For integers $1\leq a<b$ let $D(a,b)$ be the minimal value of $n_k$ such that there exist integers $1\leq n_1<\cdots <n_k$ with $\frac{a}{b}=\frac{1}{n_1}+\cdots+\frac{1}{n_k}$. Estimate $D(b)=\max_{1\leq a<b}D(a,b)$. Is it true that $D(b) \ll b(\log b)^{1+o(1)}$?

Status: proved (Yokota; improved by Liu–Sawhney). A formal proof exists in plby/lean-proofs (`Erdos305.erdos_305`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6309.

### What changed
Adds `FormalConjectures/ErdosProblems/305.lean` with `D a b` (least possible largest denominator in an Egyptian fraction expansion of `a/b`), `Dmax b`, and:
- `erdos_305` (`research solved`, `answer(True)`): `D(b) ≪ b (log b)^{1+o(1)}` (Yokota [Yo88]). Linked to plby/lean-proofs `Erdos305.erdos_305` (Codex and GPT-5.6 Sol; 46 Mathlib-only files on top of the unit-fractions development).
- Variants: Bleicher–Erdős `≪ b (log b)²`, the prime lower bound `≫ p log p`, Yokota's and Liu–Sawhney's explicit bounds.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos305.erdos_305` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the definitions coincide):

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge305

lemma D_eq (a b : ℕ) : Erdos305.D a b = Erdos305Plby.D a b := by
  unfold Erdos305.D Erdos305Plby.D Erdos305Plby.HasBoundedExpansion UnitFractions.rec_sum
  rfl

lemma Dmax_eq (b : ℕ) : Erdos305.Dmax b = Erdos305Plby.Dmax b := by
  unfold Erdos305.Dmax Erdos305Plby.Dmax
  simp only [D_eq]

theorem erdos_305_bridge : type_of% Erdos305.erdos_305 := by
  show True ↔ _
  simp only [true_iff, Dmax_eq]
  exact Erdos305Plby.erdos_305

end Bridge305
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«305»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/305.lean [hunk 1]
```diff
@@ -0,0 +1,101 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/305.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
